* Z:\home\salvoroni\verilog\Lab4\encoder.asc
XX1 N001 N002 N003 VDD y7 nand3
XX2 N001 N002 N004 VDD y6 nand3
XX3 N001 N005 N003 VDD y5 nand3
XX4 N001 N005 N004 VDD y4 nand3
XX5 N006 N002 N003 VDD y3 nand3
XX6 N006 N002 N004 VDD y2 nand3
XX7 N006 N005 N003 VDD y1 nand3
XX8 N006 N005 N004 VDD y0 nand3
V1 N001 0 PULSE(0 1 4n 10p 10p 4n 6n)
V2 N002 0 PULSE(0 1 2n 10p 10p 2n 4n)
V3 N003 0 PULSE(0 1 1n 10p 10p 1n 2n)
A1 N001 0 0 0 0 N006 0 0 BUF
A2 N002 0 0 0 0 N005 0 0 BUF
A3 N003 0 0 0 0 N004 0 0 BUF
V4 VDD 0 1
R1 y0 0 100k
R2 y1 0 100k
R3 y2 0 100k
R4 y3 0 100k
R5 y4 0 100k
R6 y5 0 100k
R7 y6 0 100k
R8 y7 0 100k
C1 y0 0 100f
C2 y1 0 100f
C3 y2 0 100f
C4 y3 0 100f
C5 y4 0 100f
C6 y5 0 100f
C7 y6 0 100f
C8 y7 0 100f

* block symbol definitions
.subckt nand3 A_IN B_IN C_IN V_POS OUT
XX1 A_IN B_IN V_POS N001 nand
XX2 N002 C_IN V_POS OUT nand
XX3 N001 N001 V_POS N002 nand
.ends nand3

.subckt nand A_IN B_IN V_POS OUT
M1 V_POS A_IN OUT V_POS PMOS l=90n w=400n
M2 V_POS B_IN OUT V_POS PMOS l=90n w=400n
M3 OUT A_IN N001 N001 NMOS l=90n w=200n
M4 N001 B_IN 0 0 NMOS l=90n w=200n
.include 90nm_bulk.txt
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\salvoroni\My Documents\LTspiceXVII\lib\cmp\standard.mos
* A
* B
* C
* Y0
* Y7
.tran 0 8n 0 1p
.include 90nm_bulk.txt
.backanno
.end
